US08791123B2
Step E: Preparation of (R)-5-(5-(2,5-difluorophenyl)-2,2-dimethylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method described in Example 1 using (R)-5-(5-(2,5-difluorophenyl)-2,2-dimethylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid and ammonium chloride. The crude material was purified by reverse phase HPLC (0-70% acetonitrile/water) to provide the title compound (8.5 mg, 33% yield). MS (apci) m/z=372.1 (M+H).

reactant | (R)-5-(5-(2,5-difluorophenyl)-2,2-dimethylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC1=C(C=C(C=C1)F)[C@H]1CCC(N1C1=NC=2N(C=C1)N=CC2C(=O)O)(C)C | C19H18F2N4O2
reactant | ammonium chloride | [Cl-].[NH4+]
product | (R)-5-(5-(2,5-difluorophenyl)-2,2-dimethylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 8.5 mg, 33% yield | FC1=C(C=C(C=C1)F)[C@H]1CCC(N1C1=NC=2N(C=C1)N=CC2C(=O)N)(C)C | C19H19F2N5O
